US09193725B2
To a stirred solution of 2-(4-chloro-6-(pyridin-2-yl)pyrimidin-5-yl)acetaldehyde (600 mg) in dry MeCN (10 mL), methyl hydrazine (181 mg) and sodium acetate (422 mg) were added. The reaction mixture was stirred at room temperature for 3 hours and solvents were removed under reduced pressure. The resulting crude was purified by column chromatography using MeOH/CHCl3 (0.5:9.5) as eluent to afford 1-methyl-5-(pyridin-2-yl)-1,4-dihydropyrimido[4,5-c]pyridazine (350 mg) as white solid. 1H NMR (DMSO-d6): δ 3.41 (s, 3H), 3.93-3.94 (d, 2H), 6.92-6.94 (t, 1H), 7.47-7.51 (m, 1H), 7.94-7.99 (m, 1H), 8.00-8.10 (m, 1H), 8.67-8.69 (d, 2H).

reactant | 2-(4-chloro-6-(pyridin-2-yl)pyrimidin-5-yl)acetaldehyde | 600 mg | ClC1=NC=NC(=C1CC=O)C1=NC=CC=C1 | C11H8ClN3O
reactant | methyl hydrazine | 181 mg | CNN | CH6N2
reactant | sodium acetate | 422 mg | C(C)(=O)[O-].[Na+]
solvent | MeCN | 10 mL | CC#N | C2H3N
product | 1-methyl-5-(pyridin-2-yl)-1,4-dihydropyrimido[4,5-c]pyridazine | 350 mg | CN1N=CCC2=C1N=CN=C2C2=NC=CC=C2 | C12H11N5
